US07968725B2
b) 4-Methyl-2,6-bis-(4-trifluoromethylphenyl)-pyridine
To a degassed solution of 2-bromo-6-chloro-4-methyl-pyridine (1.45 g, 7.04 mmol), 4-trifluoromethylbenzeneboronic acid (3.8 g, 20 mmol), 2N Na2CO3 (10 mL) in DME (80 mL) was added tetrakis(triphenylphosphine)palladium (690 mg, 0.6 mmol) under argon. The mixture was heated to 85° C. for 4 h, cooled to room temperature, diluted with water, and extracted with methylene chloride (3×). The organic solution was washed with brine, dried over Na2SO4, and concentrated. The residue was purified by column chromatography on silica gel (0-20% methylene chloride in heptane) to give the product as an off white solid (1.75 g, 65%). 1H NMR (300 MHz, CDCl3) δ 8.24 (d, J=7.91 Hz, 26H), 7.75 (d, J=8.29 Hz, 26H), 7.61 (s, 13H), 2.53 (s, 19H). MS m/e 382.2 (M+H)

reactant | 2-bromo-6-chloro-4-methyl-pyridine | 7.04 mmol, 1.45 g | BrC1=NC(=CC(=C1)C)Cl | C6H5BrClN
reactant | 4-trifluoromethylbenzeneboronic acid | 20 mmol, 3.8 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Na2CO3 | 2N, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 80 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.6 mmol, 690 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Methyl-2,6-bis-(4-trifluoromethylphenyl)-pyridine | 1.75 g, 65% | CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C20H13F6N
